US09359340B2
To a solution of 6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol (9.87 g, 72.5 mmol) in DCE (200 ml) was added DIEA (15 mL, 86.1 mmol). The mixture was stirred at room temperature for 30 minutes and then added POCl3 (15 mL, 163.9 mmol) was added slowly. The mixture was stirred at room temperature for 1 hour and then refluxed for 12 hour. After cooling, the solvent was removed and the residue was dissolved in CHCl3 (200 ml). The mixture was basified by adding ice-cooled concentrated aqueous ammonia (15 mL). The organic phase was separated. The aqueous phase was washed with CHCl3 (3×100 mL). The organic phase was combined, dried and concentrated. The residue was subject to chromatography on silica gel, eluted by Hexanes/ethyl acetate (4:1) to afford 4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine (5.7 g, 51%). 1H NMR (CDCl3, 400 MHz) δ 8.76 (s, 1H), 3.12-3.01 (m, 4H), 2.23-2.14 (m, 2H).

reactant | 6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol | 72.5 mmol, 9.87 g | N1=CN=C(C2=C1CCC2)O | C7H8N2O
reactant | DIEA | 86.1 mmol, 15 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | POCl3 | 163.9 mmol, 15 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DCE | 200 ml | ClCCCl | C2H4Cl2
product | 4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 5.7 g, 51% | ClC=1C2=C(N=CN1)CCC2 | C7H7ClN2
